US08703941B2
A solution of 6-methylthieno[2,3-d]pyrimidin-4-ol (95 mg, 0.57 mmol, 1.00 equiv) in acetic acid (2 mL) was added Br2 (181 mg, 1.13 mmol, 2.00 equiv) and the resulting solution was stirred overnight at room temperature under nitrogen. After finished of the reaction, the reaction was then quenched with saturated aqueous NaHSO3 and extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give the resulted 5-bromo-6-methylthieno[2,3-d]pyrimidin-4-ol (111 mg, 79%) as a yellow solid.

reactant | 6-methylthieno[2,3-d]pyrimidin-4-ol | 0.57 mmol, 95 mg, 1.00 equiv | CC1=CC2=C(N=CN=C2O)S1 | C7H6N2OS
reactant | Br2 | 1.13 mmol, 181 mg, 2.00 equiv | BrBr | Br2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-6-methylthieno[2,3-d]pyrimidin-4-ol | 111 mg, 79% | BrC1=C(SC=2N=CN=C(C21)O)C | C7H5BrN2OS
